US07105567B2
By the reaction and treatment in the same manner as in Example 2 using butyl(4-isopropylphenyl)amine (1.8 g) and 2,6-diisopropylphenyl isocyanate (2.7 g) as starting materials, N-butyl-N′-(2,6-diisopropylphenyl)-N-(4-isopropylphenyl)urea (1.3 g) was obtained.

reactant | butyl(4-isopropylphenyl)amine | 1.8 g | C(CCC)NC1=CC=C(C=C1)C(C)C | C13H21N
reactant | 2,6-diisopropylphenyl isocyanate | 2.7 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N-butyl-N′-(2,6-diisopropylphenyl)-N-(4-isopropylphenyl)urea | 1.3 g | C(CCC)N(C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)C1=CC=C(C=C1)C(C)C | C26H38N2O
